US07846959B2
A solution of 6-chloro-3,4-difluoro-2-nitroaniline (3.30 g, 15.8 mmol) in concentrated sulfuric acid (8.3 mL) was stirred at rt for 3 h and was then cooled to 0° C. A solution of sodium nitrite (1.3 g, 18.8 mmol) concentrated sulfuric acid (6.7 mL) was added slowly followed by phosphoric acid (85%, 15 mL) added drop wise. A dark brown precipitate formed, and the resulting slurry was stirred for 1 h at 0° C. A suspension of copper(I) oxide (2.4 g, 30 mmol) and sodium hypophosphite hydrate (5.6 g, 64 mmol) in water (6.7 mL) was then added slowly with the temperature remaining at 0° C. Substantial gas evolution was observed during the addition. When the reaction was complete, the mixture was diluted with water and ether. Celite was added to help adsorb insoluble solids. The mixture was filtered, and the filtrate was partitioned. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (90% hexanes: 10% ethyl acetate) to provide the desired 5-chloro-1,2-difluoro-3-nitrobenzene (1.62 g, 8.4 mmol, 53% yield) as a yellow crystalline solid. 1H NMR (400 MHz, CDCl3): 7.88 (m, 1H), 7.53 (m, 1H); GCMS for C6H2ClF2NO2: 193 (M+).

reactant | 6-chloro-3,4-difluoro-2-nitroaniline | 15.8 mmol, 3.30 g | ClC1=CC(=C(C(=C1N)[N+](=O)[O-])F)F | C6H3ClF2N2O2
reactant | sodium nitrite | 18.8 mmol, 6.7 mL, 1.3 g | N(=O)[O-].[Na+]
reactant | phosphoric acid | 15 mL | P(O)(O)(O)=O | H3O4P
reactant | sodium hypophosphite hydrate | 64 mmol, 5.6 g | O.[PH2](=O)[O-].[Na+]
solvent | sulfuric acid | 8.3 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 6.7 mL | O | H2O
solvent | ether | CCOCC | C4H10O
catalyst | copper(I) oxide | 30 mmol, 2.4 g | [Cu-]=O
product | 5-chloro-1,2-difluoro-3-nitrobenzene | 8.4 mmol, 1.62 g, 53% yield | ClC=1C=C(C(=C(C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
